US09145441B2
Compound 114a: (S)-2-tert-Butoxycarbonylamino-3-(3-methyl-oxetan-3-ylmethoxy)-propionic acid
To N-(tert-Butoxycarbonyl)-L-serine (1.2 g, 6.06 mmol) in anhydrous dimethyl sulfoxide (20 mL) at room temperature and under an atmosphere of nitrogen was added sodium hydride (60% in mineral oil, 363 mg, 9.1 mmol) in three portions. The reaction was stirred for 1 h after which was added 3-bromomethyl-3-methyl oxetane (obtained from Fluorochem Ltd., UK), 1 g, 6.06 mmol) and a further amount of sodium hydride (60% in mineral oil, 363 mg, 9.1 mmol). The reaction was stirred for 16 h and quenched by careful addition of water. The solution was washed with diethyl ether (1×) and acidified to pH 2 with 2 M hydrochloric acid. The solution was extracted with ethyl acetate (2×) and the combined organics washed with brine. The organic layer was dried through a hydrophobic frit and concentrated in vacuo to yield the title compound (1.1 g, 63%) as a clear oil. 1H NMR (300 MHz, CDCl3) δ 1.30 (s, 3H), 1.48 (s, 9H), 3.50, 3.53 (ABq, J=9.4 Hz, 2H), 3.77 (dd, J=9.4, 3.8 Hz, 1H), 3.98 (dd, J=9.4, 2.9 Hz, 1H), 4.37 (d, J=5.8 Hz, 2H), 4.47-4.55 (m, 1H), 4.57 (d, J=5.8 Hz, 2H), 5.47 (d, J=8.3 Hz, 1H). LCMS (m/z) 289.3 [M+H], Tr=1.67 min.

reactant | N-(tert-Butoxycarbonyl)-L-serine | 6.06 mmol, 1.2 g | C(C)(C)(C)OC(=O)N[C@@H](CO)C(=O)O | C8H15NO5
reactant | sodium hydride | 9.1 mmol, 363 mg | [H-].[Na+]
reactant | 3-bromomethyl-3-methyl oxetane | BrCC1(COC1)C | C5H9BrO
reactant | sodium hydride | 9.1 mmol, 363 mg | [H-].[Na+]
solvent | dimethyl sulfoxide | 20 mL | CS(=O)C | C2H6OS
product | (S)-2-tert-Butoxycarbonylamino-3-(3-methyl-oxetan-3-ylmethoxy)-propionic acid | 1.1 g, 63% | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)COCC1(COC1)C | C13H23NO6
